US05089506
1-(2-Benzobicyclo[2.2.1]heptenyl)-4-methylpiperazine (Compound No. 8)
2-Aminobenzobicyclo[2.2.1]heptene (1.1 g) was combined with mechlorethamine hydrochloride (1.4 g), potassium carbonate (1.5 g), and acetonitrile (25 ml) and heated to reflux for 24 hours. Water (50 ml) was added to the mixture and the resulting mixture was extracted with ether (3×50 ml). The combined ether solutions were dried over magnesium sulfate and the ether was removed on a rotary evaporator. The residue was combined with concentrated hydrochloric acid (5 ml) and 2-propanol (25 ml) and the solvent was removed on a rotary evaporator. The residue was suspended in 2-propanol and the solvent was removed on a rotary evaporator. This latter step was repeated. The residue was recrystallized from 2-propanol to provide the product as a tan solid. Analytical data are reported in Table I.

reactant | 2-Aminobenzobicyclo[2.2.1]heptene | 1.1 g | NC=1C=C2C3=C(C1C2)C=CC=C3 | C11H9N
reactant | mechlorethamine hydrochloride | 1.4 g | CN(CCCl)CCCl.Cl
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | Water | 50 ml | O | H2O
product | 1-(2-Benzobicyclo[2.2.1]heptenyl)-4-methylpiperazine | C=12C3=C(C(=CC1N1CCN(CC1)C)C2)C=CC=C3 | C16H18N2
